US06172057B2
2-[4-(2-Diethylamino-ethoxy)-benzyl]-2-(4-methoxy-benzenesulfonyl)-hexanoic acid was prepared starting from 2-[4-(2-diethylamino-ethoxy)-benzyl]-2-(4-methoxy-benzenesulfonyl)-hexanoic acid ethyl ester (8 g, 15.4 mmol) dissolved in methanol (200 ml) and 10 N NaOH (30 ml). The resulting mixture was worked up as outlined in example 1. Yield 3.88 g crude (51%); brown oil; MS: 492 (M+H)+.

reactant | 2-[4-(2-diethylamino-ethoxy)-benzyl]-2-(4-methoxy-benzenesulfonyl)-hexanoic acid ethyl ester | 15.4 mmol, 8 g | C(C)OC(C(CCCC)(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OCCN(CC)CC)=O | C28H41NO6S
solvent | methanol | 200 ml | CO | CH4O
solvent | NaOH | 10 N, 30 ml | [OH-].[Na+]
product | 2-[4-(2-Diethylamino-ethoxy)-benzyl]-2-(4-methoxy-benzenesulfonyl)-hexanoic acid | C(C)N(CCOC1=CC=C(CC(C(=O)O)(CCCC)S(=O)(=O)C2=CC=C(C=C2)OC)C=C1)CC | C26H37NO6S
